US07071175B1
(b) 2-[1-(6-tert-Butoxycarbonylamino-pyridin-3-yl)-2-methyl-propyl]-malonic acid monoethyl ester
To a solution of 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-methyl-propyl]-malonic acid diethyl ester (1.569 g, 3.84 mmol) in a mixture of dichloromethane (6 mL) and ethanol (12 mL, 95%) at 0° C. a solution of potassium hydroxide (0.272 g, 85%, 4.2 mmol) in ethanol (6 mL, 95%) was added dropwise over 40 min. After additional 1 h stirring the mixture was allowed to warm up to room temperature and stirring was continued for 18 h. Then water (30 mL) and dichloromethane (30 mL) were added, and after 3 min stirring the layers were separated. The organic was extracted once with water and the combined aqueous were washed once with ether. Then an aqueous solution of citric acid (10%) was added to adjust the pH to 4, and the solution was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulphate. After evaporation of the solvent crude 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-methyl-propyl]-malonic acid monoethyl ester (0.94 g, 64%) was obtained.

reactant | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-methyl-propyl]-malonic acid diethyl ester | 3.84 mmol, 1.569 g | C(C)OC(C(C(=O)OCC)C(C(C)C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C21H32N2O6
reactant | potassium hydroxide | 4.2 mmol, 0.272 g | [OH-].[K+]
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-[1-(6-tert-Butoxycarbonylamino-pyridin-3-yl)-2-methyl-propyl]-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)C(C(C)C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O6
